US09290496B2
Step 2: Preparation of 1-benzyl-3,3-difluoropyrrolidine-2,5-dione
To a solution of the crude 4-(benzylamino)-3,3-difluoro-4-oxobutanoic acid in iPrOAc (40 mL), SOCl2 (2.04 mL, 27.9 mmol, 2 eq) was added at ambient temperature. The reaction solution was stirred at 55° C. for 4 hr. The reaction was cooled to 0-5° C. Half saturated brine (50 mL) was added slowly to quench the excess SOCl2. The organic phase was washed with brine (70 mL) and 2 M Na2CO3 (about 50 mL) to pH=8-9, extracted two times with EtOAc. The combined organic layer was washed with brine (50 mL), the organic phase was dried over MgSO4, filtered and concentrated. The crude residue was diluted with CH2Cl2 and filtered to remove precipitate. The concentrated filtrate was purified by column chromatography and eluted with 2-20% EtOAc/Heptane to obtain the title compound as a clear oil (1.74 g, 65%)1H NMR (400 MHz, CDCl3) δ ppm 7.30-7.43 (m, 5 H) 4.76 (s, 2 H) 3.18 (t, J=12.53 Hz, 2 H).

reactant | 4-(benzylamino)-3,3-difluoro-4-oxobutanoic acid | C(C1=CC=CC=C1)NC(C(CC(=O)O)(F)F)=O | C11H11F2NO3
reactant | SOCl2 | 27.9 mmol, 2.04 mL, 2 eq | O=S(Cl)Cl | Cl2OS
solvent | iPrOAc | 40 mL | C(C)(C)OC(=O)C | C5H10O2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 1-benzyl-3,3-difluoropyrrolidine-2,5-dione | 1.74 g, 65% | C(C1=CC=CC=C1)N1C(C(CC1=O)(F)F)=O | C11H9F2NO2
